US05202407
A. Preparation of benzyltri-p-tolyl phosphonium iodide catalyst
Into a 50 milliliter glass reactor equipped with a thermometer connected to a temperature controller, a heating mantle, a condenser and a magnetic stirring bar, is charged 5 gms (0.0164 mole) of tri-p-tolylphosphine and 23 gms of toluene. The slurry is heated to 35° C. then 4.3 gms (0.0177 mole) of benzyl iodide is added. This reaction mass is heated to 40° C. in 15 minutes and maintained for 16 hours then cooled to 26° C. and the resulting phosphonium salt collected by filtration, then vacuum dried. There is obtained 3.6 gms of catalyst which has a melting point of 210° C.-218° C. and a chemical shift of 28.5 ppm (phosphoric acid reference).

reactant | tri-p-tolylphosphine | 0.0164 mole, 5 gms | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C21H21P
reactant | benzyl iodide | 0.0177 mole, 4.3 gms | C(C1=CC=CC=C1)I | C7H7I
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | toluene | 23 gms | C1(=CC=CC=C1)C | C7H8
product | benzyltri-p-tolyl phosphonium iodide | [I-].C(C1=CC=CC=C1)[P+](C1=CC=C(C=C1)C)(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | InChI=1S/C28H28P.HI/c1-22-9-15-26(16-10-22)29(21-25-7-5-4-6-8-25,27-17-11-23(2)12-18-27)28-19-13-24(3)14-20-28;/h4-20H,21H2,1-3H3;1H/q+1;/p-1
